US07776875B2
Preparation of Racemic (2′R,3S,4′R)-6-chloro-4′-[5-chloro-2-(1-dimethylcarbamoyl-1-methyl-ethoxy)-phenyl]-2′-(2,5-difluoro-phenyl)spiro[3H-indole-3,3′-piperidine]-2,6′(1H)-dione
A mixture of racemic (2′S,3S,4′R)-6-chloro-4′-[5-chloro-2-(2-hydroxycarbonyl-2-methyl-ethoxy)-phenyl]-2′-(2,5-difluoro phenyl)spiro[3H-indole-3,3′-piperidine]-2,6′(1H)-dione (100 mg, 0.174 mmol), dimethylamine hydrochloride (28 mg, 0.348 mmol), EDC.HCl (66 mg, 0.348 mmol), HOBt (47 mg, 0.348 mmol) and DIPEA (135 mg, 1.044 mmol) in anhydrous DMF (3 mL) was stirred at room temperature overnight. Then the mixture was filtered and the filtrate was concentrated. The residue was purified by Prep-HPLC to give the title compound as a white solid (50 mg).

reactant | racemic (2′S,3S,4′R)-6-chloro-4′-[5-chloro-2-(2-hydroxycarbonyl-2-methyl-ethoxy)-phenyl]-2′-(2,5-difluoro phenyl)spiro[3H-indole-3,3′-piperidine]-2,6′(1H)-dione | 0.174 mmol, 100 mg | ClC1=CC=C2C(=C1)NC(C21C(NC(CC1C1=C(C=CC(=C1)Cl)OCC(C)C(=O)O)=O)C1=C(C=CC(=C1)F)F)=O | C28H22Cl2F2N2O5
reactant | dimethylamine hydrochloride | 0.348 mmol, 28 mg | Cl.CNC
reactant | EDC.HCl | 0.348 mmol, 66 mg | CCN=C=NCCCN(C)C.Cl
reactant | HOBt | 0.348 mmol, 47 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | DIPEA | 1.044 mmol, 135 mg | CCN(C(C)C)C(C)C | C8H19N
reactant | DMF | 3 mL | CN(C)C=O | C3H7NO
product | Racemic (2′R,3S,4′R)-6-chloro-4′-[5-chloro-2-(1-dimethylcarbamoyl-1-methyl-ethoxy)-phenyl]-2′-(2,5-difluoro-phenyl)spiro[3H-indole-3,3′-piperidine]-2,6′(1H)-dione | 50 mg | ClC1=CC=C2C(=C1)NC(C21C(NC(CC1C1=C(C=CC(=C1)Cl)OC(C)(C)C(N(C)C)=O)=O)C1=C(C=CC(=C1)F)F)=O | C30H27Cl2F2N3O4
